US07410981B2
3-[(tert-Butoxycarbonyl)amino]propyl ethyl carbonate
To a mixture of tert-butyl 3-hydroxypropylcarbamate (8.00 g) obtained in Reference Example 40 and ethyl acetate (50 mL) were-added pyridine (4.06 mL) and ethyl chlorocarbonate (5.95 g) under ice-cooling, and the mixture was stirred at room temperature for 24 hrs. Ethyl acetate (100 mL) was added to the reaction mixture, and the mixture was washed with water (50 mL), an aqueous copper sulfate solution (30 mL), water (30 mL) and saturated brine (30 mL), and dried over anhydrous sodium sulfate. Concentration under reduced pressure gave the title compound (9.31 g) as a colorless oil.

reactant | tert-butyl 3-hydroxypropylcarbamate | 8.00 g | OCCCNC(OC(C)(C)C)=O | C8H17NO3
reactant | pyridine | 4.06 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorocarbonate | 5.95 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(tert-Butoxycarbonyl)amino]propyl ethyl carbonate | 9.31 g | C(OCCCNC(=O)OC(C)(C)C)(OCC)=O | C11H21NO5
